US07713628B2
A urethane acrylate was prepared with IPDI, hydroxypropyl acrylate and a 1000 MW polyether diol in an equivalent ratio of 3/2/1. The reaction product was a clear, colorless liquid. At 25° C. the viscosity was 8,000 cps.

reactant | IPDI | CC1(CC(CC(C1)(C)CN=C=O)N=C=O)C | C12H18N2O2
reactant | hydroxypropyl acrylate | C(C=C)(=O)OCCCO | C6H10O3
product | urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
